US04616086
Ethyl 3-{4-[2-(piperazin-1-yl)-ethyl]-phenyl}-propionate
A mixture of 57 g. (0.126 mole) ethyl 3-{4-[2-(1-benzylpiperazin-4-yl)-ethyl]-phenyl}-propionate and 200 ml. ethanol is hydrogenated, with the addition of 10% palladium-charcoal, at 50° C. and 50 bar hydrogen pressure in a shaking autoclave, then allowed to cool and filtered. After evaporation, the residue is dissolved in diethyl ether. The dihydrochloride is now precipitated out by adding hydrogen chloride-containing diethyl ether. The dihydrochloride is triturated with ethanol and filtered off with suction. Yield 31.0 g. (68% of theory) ethyl 3-{4-[2-(piperazin-1-yl)-ethyl]-phenyl}-propionate dihydrochloride; m.p. 243°-244° C.

reactant | ethyl 3-{4-[2-(1-benzylpiperazin-4-yl)-ethyl]-phenyl}-propionate | 0.126 mole | C(C1=CC=CC=C1)N1CCN(CC1)CCC1=CC=C(C=C1)CCC(=O)OCC | C24H32N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 3-{4-[2-(piperazin-1-yl)-ethyl]-phenyl}-propionate | N1(CCNCC1)CCC1=CC=C(C=C1)CCC(=O)OCC | C17H26N2O2
